US08252810B2
(1) 2-Bromo-6-fluorobenzyl chloride
After dissolving (2-bromo-6-fluorophenyl)methanol (CAS 261723-33-5) (4.07 g) in toluene (50 ml), thionyl chloride (2.21 ml) was added dropwise while stirring on ice. N,N-Dimethylformamide (0.1 ml) was then added and the mixture was stirred for 6 hours. The reaction mixture was diluted with water, a 1N aqueous solution of sodium hydroxide was added and extraction was performed with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. After filtration, the solvent was distilled off under reduced pressure to obtain the title compound (4.45 g).

reactant | (2-bromo-6-fluorophenyl)methanol | 4.07 g | BrC1=C(C(=CC=C1)F)CO | C7H6BrFO
reactant | N,N-Dimethylformamide | 0.1 ml | CN(C=O)C | C3H7NO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | thionyl chloride | 2.21 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-Bromo-6-fluorobenzyl chloride | 4.45 g | BrC1=C(CCl)C(=CC=C1)F | C7H5BrClF
